US08633186B2
Prepared in a similar manner as example 111c from 2,6 dinitrobenzonitrile and cyclobutanol to provide 2-amino-6-cyclobutoxybenzonitrile (298 mg, 34%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.69 (m, 1H), 1.85 (m, 1H), 2.14 (m, 2H), 2.52 (m, 2H), 4.98 (pent, J=7.3 Hz, 1H), 7.55 (dd, J=8.2, 1.1 Hz, 1H), 7.87 (t, J=8.2 Hz, 1H), 7.92 (dd, J=8.4, 1.3 Hz, 1H).

reactant | 2,6 dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | cyclobutanol | C1(CCC1)O | C4H8O
product | 2-amino-6-cyclobutoxybenzonitrile | 298 mg, 34% | NC1=C(C#N)C(=CC=C1)OC1CCC1 | C11H12N2O
